US08258130B2
Diethyl-iso-propylamine (1.13 mmol) is added a solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (0.75 mmol), pyrrolo[2,3-c]pyridine-1-ylamine (0.75 mmol) and TBTU (0.9 mmol) in anhydrous DMF (7 mL) at rt, and the reaction mixture is stirred at 80° C. overnight. Water is added and the mixture is extracted with EtOAc. The organic layer is separated, washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 40-100% MeOH in DCM to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid pyrrolo[2,3-c]pyridin-1-ylamide (117 mg, 45%) as a solid. MS: 348 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.84 (s, 3H), 6.72 (d, H), 7.29 (m, H), 7.55 (m, H), 7.71 (m, H), 8.14-8.29 (m, 2H), 8.36 (d, 3), 8.75 (s, H), 9.17 (s, H). IC50=28.5 nM.

reactant | Diethyl-iso-propylamine | 1.13 mmol | C(C)N(C(C)C)CC | C7H17N
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 0.75 mmol | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | pyrrolo[2,3-c]pyridine-1-ylamine | 0.75 mmol | N1(C=CC=2C1=CN=CC2)N | C7H7N3
reactant | TBTU | 0.9 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid pyrrolo[2,3-c]pyridin-1-ylamide | 117 mg, 45% | N1(C=CC=2C1=CN=CC2)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C19H14FN5O
